US06268387B1
3-(4-Fluoro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using 4-fluorobenzenesulfonyl chloride (2.14 g 10 mmol) and 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10.0 mmol) to afford the product (3.522 g); m.p. 209-211° C.

reactant | 4-fluorobenzenesulfonyl chloride | 10 mmol, 2.14 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10.0 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
product | 3-(4-Fluoro-benzenesulfonylamino)-4-methoxy-N-phenyl-benzamide | 3.522 g | FC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H17FN2O4S
